US04400380
Analogously to Examples 1 and 2, 4-phenyl-3-butene-2-one is reacted with paraformaldehyde, HCl and dimethylamine to produce 5-dimethylamino-1-phenyl-1-penten-3-one. 2.2 g of this amine and 16.1 g of methyl iodide are combined in 40 ml of diethyl ether and the mixture is stirred. After 10 minutes a white precipitate forms, and after 30 minutes, 50 ml of diethyl ether is added to maintain a stirrable slurry. The precipatate is filtered, washed with diethyl ether and dried in a dessicator to produce E-N,N,N-trimethyl-3-ox-5-phenyl-4-penten-1-aminium iodide, m.p. 204°-206° C.

reactant | 4-phenyl-3-butene-2-one | C1(=CC=CC=C1)C=CC(C)=O | C10H10O
reactant | paraformaldehyde | C=O | CH2O
reactant | HCl | Cl | ClH
reactant | dimethylamine | CNC | C2H7N
product | 5-dimethylamino-1-phenyl-1-penten-3-one | CN(CCC(C=CC1=CC=CC=C1)=O)C | C13H17NO
